US07851473B2
(2) 3-Phenyl-1,2,4-oxadiazol-5(4H)-one
A solution of N′-[(ethoxycarbonyl)oxy]benzenecarboximidamide (17.0 g, 81.6 mmol) and sodium hydroxide (6.28 g, 157 mmol) in water (380 ml) and ethanol (95 ml) was stirred at room temperature for 3 hours. Thereto 1 N hydrochloric acid (157 ml) was added, and a precipitated solid was collected by filtration and washed with water to give 7.05 g (53.4%) of the desired product.

reactant | N′-[(ethoxycarbonyl)oxy]benzenecarboximidamide | 81.6 mmol, 17.0 g | C(C)OC(=O)ON=C(N)C1=CC=CC=C1 | C10H12N2O3
reactant | sodium hydroxide | 157 mmol, 6.28 g | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 157 ml | Cl | ClH
solvent | water | 380 ml | O | H2O
solvent | ethanol | 95 ml | C(C)O | C2H6O
product | 3-Phenyl-1,2,4-oxadiazol-5(4H)-one | 7.05 g, 53.4% | C1(=CC=CC=C1)C1=NOC(N1)=O | C8H6N2O2
